US06172085B2
Tert-butyl [2,3-dihydro-2-[[4-(2-hydroxyethyl)-1-piperidinyl]methyl]-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate
To a solution of 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-4-piperidineethanol (3.1 g) and di-tert-butyl dicarbonate (2.1 g) in tetrahydrofuran (20 mL) was added 10 mL of 1N-aqueous sodium hydroxide and the mixture was stirred at room temperature for 2 hours. This reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaCl, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=95:5) to provide 3.9 g of the title compound. Yield 98%.

reactant | 1-[(5-amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-4-piperidineethanol | 3.1 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)CCO)C1C)C)C | C20H32N2O2
reactant | di-tert-butyl dicarbonate | 2.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Tert-butyl [2,3-dihydro-2-[[4-(2-hydroxyethyl)-1-piperidinyl]methyl]-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | 3.9 g, Yield 98% | OCCC1CCN(CC1)CC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C25H40N2O4
